US05324725
5,6-Dihydro-2-methyl-1-{2-[4-(4-methylpyridin-2-yl)piperazin-1-yl]ethyl}-4H-pyrrolo[3,2,1-ij]quinoline
g of 5,6-dihydro-2-methyl-1-[2-(piperazin-1-yl)-ethyl]-4H-pyrrolo[3,2,1-ij]quinoline, 1.45 g of 2-bromo-4-methylpyridine, 0.175 g of potassium iodide and 3 ml of triethylamine were heated at a temperature of 85° C. for 7 hours in 50 ml of dimethylformamide. The reaction mixture was worked up as described in Example 1H), and the crude title base obtained was converted into 5,6-dihydro-2-methyl-1-(2-[4-(4-methylpyridin-2-yl)piperazin-1-yl]ethyl}-4H-pyrrolo[3,2,1-ij]quinoline trihydrochloride having a melting point of 254° C.

reactant | 5,6-dihydro-2-methyl-1-[2-(piperazin-1-yl)-ethyl]-4H-pyrrolo[3,2,1-ij]quinoline | CC1=C(C=2C=CC=C3CCCN1C23)CCN2CCNCC2 | C18H25N3
reactant | 2-bromo-4-methylpyridine | 1.45 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | potassium iodide | 0.175 g | [I-].[K+]
reactant | 5,6-dihydro-2-methyl-1-(2-[4-(4-methylpyridin-2-yl)piperazin-1-yl]ethyl}-4H-pyrrolo[3,2,1-ij]quinoline trihydrochloride | Cl.Cl.Cl.CC1=C(C=2C=CC=C3CCCN1C23)CCN2CCN(CC2)C2=NC=CC(=C2)C
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | 5,6-Dihydro-2-methyl-1-{2-[4-(4-methylpyridin-2-yl)piperazin-1-yl]ethyl}-4H-pyrrolo[3,2,1-ij]quinoline | CC1=C(C=2C=CC=C3CCCN1C23)CCN2CCN(CC2)C2=NC=CC(=C2)C | C24H30N4
